US07018988B2
(2RS)-3-({[(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)pyrrolidinyl]carbonyl}amino)-2-hydroxypropanoic acid
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and (2RS)-3-amino-2-hydroxypropanoic acid, the title compound was obtained in 44% purity by HPLC. MS(ESI+): m/z=426.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | (2RS)-3-amino-2-hydroxypropanoic acid | NCC(C(=O)O)O | C3H7NO3
product | (2RS)-3-({[(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)pyrrolidinyl]carbonyl}amino)-2-hydroxypropanoic acid | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCC(C(=O)O)O)C1=CC=CC=C1 | C22H23N3O6
